*****************************************************************
* NXP BUK9Y153-100E
*
* Polarity N-Channel
* Ratings 100V/1.530000E-001OHMS/9.39228557925042A
*
* Date Created Tue Feb 05 07:26:03 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y153-100E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.113447685358293 TC=0.00444239632496014,3.99492252175524E-05
RBD 9 4 0.00642027378657828 TC=0.00444239632496014,3.99492252175524E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 4.87e-10
RG 1 2 2.36627376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	196.356
+ -16	197.681
+ -10	200.434
+ -5	204.448
+ -4	205.695
+ -3	205.142
+ -2	309.999
+ -1	231.774
+ -0.5	195.294
+ -0.2	174.44
+ -0.1	171.781
+ 0	170.8155
+ 0.1	170.318
+ 0.2	134.596
+ 0.5	115.007
+ 1	101.673
+ 2	85.573
+ 3	78.7
+ 4	73.652
+ 5	69.613
+ 6	66.407
+ 8	61.638
+ 10	58.335
+ 12	55.723
+ 15	52.59
+ 20	48.775
+ 25	45.947
+ 30	43.753
+ 50	38.254




.MODEL MINT NMOS(Vto=2.17368535829323 Kp=30 Nfs=660000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=5.8206236640089e-14
+ N=1 M=0.62 VJ=0.54 Fc=0.5 Cjo=1.22576e-10 Tt=1.792e-08)

.ENDS

